US06503907B2
In analogyto example 5.4, 5-[1-(4-Ethynyl-phenyl)-1H-indol-5-yl]-pent-4-yn-1-ol and methanesulfonyl chloride were converted to yield Methanesulfonic acid 5-[1-(4-ethynyl-phenyl)-1H-indol-5-yl]-pent-4-ynyl ester as orange oil, MS: 377 (M).

reactant | 5-[1-(4-Ethynyl-phenyl)-1H-indol-5-yl]-pent-4-yn-1-ol | C(#C)C1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#CCCCO | C21H17NO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 5-[1-(4-ethynyl-phenyl)-1H-indol-5-yl]-pent-4-ynyl ester | C(#C)C1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#CCCCOS(=O)(=O)C | C22H19NO3S
